data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-[N+](=O)[O-]_1-F_2-OC_3-OC_4-C(=O)C_5-C1CCCCC1_6-Cl_7-C(F)(F)F_8-c2ccc(C(F)(F)F)cc2_9-CC","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(F)c(OC)c(OC)c(C(=O)C)c(C1CCCCC1)c1O","c1(Cl)c(C(F)(F)F)c(c2ccc(C(F)(F)F)cc2)c(CC)c([N+](=O)[O-])c1I"],"products_smiles": ["c1(F)c(OC)c(OC)c(C(=O)C)c(C1CCCCC1)c1Oc2c(Cl)c(C(F)(F)F)c(c2ccc(C(F)(F)F)cc2)c(CC)c2([N+](=O)[O-])"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(F)c(OC)c(OC)c(C(=O)C)c(C1CCCCC1)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(C(F)(F)F)c(c2ccc(C(F)(F)F)cc2)c(CC)c([N+](=O)[O-])c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(Cl)c(C(F)(F)F)c(c2ccc(C(F)(F)F)cc2)c(CC)c([N+](=O)[O-])c2[Cu](I)Oc1c(F)c(OC)c(OC)c(C(=O)C)c1(C1CCCCC1)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(F)c(OC)c(OC)c(C(=O)C)c(C1CCCCC1)c1Oc2c(Cl)c(C(F)(F)F)c(c2ccc(C(F)(F)F)cc2)c(CC)c2([N+](=O)[O-])","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-144_1-C#N_2-CC_3-Cl_4-CC(C)C_5-C(C)(C)C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(CC)=C(Cl)C(=O)C(C)(C)C","S([H])CC(C)C"],"products_smiles": ["S(CC(C)C)C(C#N)(CC)C(Cl)C(=O)C(C)(C)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]CC(C)C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CC(C)C)C(C#N)(CC)C(Cl)=C([O-])C(C)(C)C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC(C)C)C(C#N)(CC)C(Cl)C(=O)C(C)(C)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
